US07786132B2
(i) 5-(2-Chloroethoxy)benzo[b]thiophene
Benzo[b]thiophen-5-ol (0.5 g, 3.3 mmol, prepared in an analogous manner to a literature preparation: Synthetic Communications 21(7), 959-964, 1991) was dissolved in anhydrous acetonitrile (10 mL) was treated with chloroethyltosylate (0.94 g, 3.99 mmol) and cesium carbonate (2.15 g, 6.6 mmol). The mixture was stirred at reflux under nitrogen. After 2 h, the reaction was allowed to cool down to room temperature. The volatiles were removed in vacuo and the residue dissolved in ethyl acetate. The organic solution was washed with a saturated aqueous solution of sodium bicarbonate, water and brine. The ethyl acetate layer was then dried with sodium sulfate and purified by flash chromatography using a gradient of 5 to 25% of ethyl acetate in hexanes to obtain a white solid. Yield=0.676 g.

reactant | Benzo[b]thiophen-5-ol | S1C2=C(C=C1)C=C(C=C2)O | C8H6OS
reactant | chloroethyltosylate | 3.99 mmol, 0.94 g | ClCCOS(=O)(=O)C1=CC=C(C)C=C1 | C9H11ClO3S
reactant | cesium carbonate | 6.6 mmol, 2.15 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | 5-(2-Chloroethoxy)benzo[b]thiophene | ClCCOC1=CC2=C(SC=C2)C=C1 | C10H9ClOS
